US08461134B2
4-Amino-2-(cyclohexanesulfonamidomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide
To a stirred solution of 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide (0.6 g, 1.8 mmol) and triethylamine (0.7 mL, 5 mmol) in 100 mL of DCM was added cyclohexanesulfonyl chloride (0.3 g, 2.2 mmol). The reaction mixture was stirred at room temperature for 16 hours. After majority of the solvent was removed under vacuum, the reaction mixture was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated, the crude residue was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the desired product as a yellow powder (112 mg, yield 13%). MS calcd for (C20H26BN3O6S2): 479.1. MS found (ESI negative): (M−H)−=478.0. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 10.03 (s, 1H), 9.17 (bs, 1H), 7.54 (d, J=8.4 Hz, 1H), 7.44 (d, J=2 Hz, 1H), 7.33 (t, J=6.4 Hz, 1H), 7.22 (d, J=8.4 Hz, 1H), 7.10 (dd, J=8, 2 Hz, 1H), 6.81 (d, J=2 Hz, 1H), 6.40 (dd, J=8.8, 2.4 Hz, 1H), 4.86 (s, 2H), 4.44 (d, J=6.4 Hz, 2H), 2.93 (m, 1H), 2.02 (m, 2H), 1.80 (m, 2H), 1.64 (m, 1H), 1.33 (m, 5H).

reactant | 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 1.8 mmol, 0.6 g | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CN | C14H16BN3O4S
reactant | triethylamine | 5 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanesulfonyl chloride | 2.2 mmol, 0.3 g | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-Amino-2-(cyclohexanesulfonamidomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 112 mg, yield 13% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CNS(=O)(=O)C1CCCCC1 | C20H26BN3O6S2
